US20010005757A1
8α,9α-Epoxycholest-5-en-3β-ol(200 mg) is dissolved in 13 ml diethylamine at −20° C. Lithium (100 mg) is added in small portions. The reaction mixture is stirred for 3 hours. After aqueous work-up, a crude product (207 mg) is isolated. Crystallization from diisopropylether yields cholest-5-ene-3β,9α-diol (62 mg).

reactant | 8α,9α-Epoxycholest-5-en-3β-ol | 200 mg | O1[C@]23[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@]31[C@]3(CC[C@@H](CC3=CC2)O)C)C | C27H44O2
reactant | Lithium | 100 mg | [Li] | Li
solvent | diethylamine | 13 ml | C(C)NCC | C4H11N
product | cholest-5-ene-3β,9α-diol | 62 mg | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](CC[C@]4(C)[C@]3(CC[C@]12C)O)O | C27H46O2
